US05389651
To a mixture of sodium hydride (0.13 g) in 5 ml of THF and 5 ml of HMPA, cooled in an ice bath, is added, dropwise, 2-[4-(3-methyl-2-butenoxy)phenoxy]ethanol (1.00 g) in 5 ml of THF. The mixture is stirred at RT for 1 hour, after which 2-chloropyridine (0.61 g) is added and the mixture is stirred at 60° for 2 hours. The solvent is removed by rotoevaporation. The residue is taken up in ether, washed with water, dried and concentrated, and the remaining oil is purified by column chromatography to give 2-{2-[4-(3-methyl-2-butenoxy)phenoxy]ethoxy}pyridine, MS m/e 300 (M+).

reactant | sodium hydride | 0.13 g | [H-].[Na+]
reactant | 2-[4-(3-methyl-2-butenoxy)phenoxy]ethanol | 1.00 g | CC(=CCOC1=CC=C(OCCO)C=C1)C | C13H18O3
reactant | 2-chloropyridine | 0.61 g | ClC1=NC=CC=C1 | C5H4ClN
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | HMPA | 5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-{2-[4-(3-methyl-2-butenoxy)phenoxy]ethoxy}pyridine | CC(=CCOC1=CC=C(OCCOC2=NC=CC=C2)C=C1)C | C18H21NO3
